US06818652B2
A solution of 7-{1-[2-(4-methoxycarbonyl-phenyl)-vinyl]-hexyl}-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (0.98 g) in 10 mL of dichloromethane was treated with 1.5 mL of trifluoroacetic acid. The mixture was stirred at room temperature for four hours and then was concentrated in vacuo to yield 0.72 g of 4-[3-(4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-oct-1-enyl]-benzoic acid methyl ester as a yellow oil.

reactant | 7-{1-[2-(4-methoxycarbonyl-phenyl)-vinyl]-hexyl}-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 0.98 g | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)C(CCCCC)C=CC1=CC=C(C=C1)C(=O)OC)(C)C | C32H43NO4
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[3-(4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-7-yl)-oct-1-enyl]-benzoic acid methyl ester | 0.72 g | COC(C1=CC=C(C=C1)C=CC(CCCCC)C1=CC=C2C(CCNC2=C1)(C)C)=O | C27H35NO2
